US08461134B2
4-Amino-2-(3-ethylureido)-N-(1-hydroxy-1,3-dihydrobenzo[c][1, 2]oxaborol-6-yl)benzenesulfonamide
To a solution of 2,4-diamino-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)benzenesulfonamide (1.0 g, 3.13 mmol) in DMF (15 ml) was added isocyanatoethane (0.5 g, 7.0 mmol) dropwise at room temperature. The reaction mixture was stirred at room temperature overnight, diluted with ethyl acetate and washed with H2O, brine. The organic fraction was then dried (MgSO4) and concentrated in vacuo. The residue was purified by Prep-HPLC to give the title compound as a white powder (0.3 g). 1H NMR (400 MHz, DMSO-d6) δ ppm 9.87 (s, 1H), 9.17 (s, 1H), 7.99 (s, 1H), 7.43 (d, J=1.6 Hz, 1H), 7.34 (d, J=2.0 Hz, 1H), 7.31 (d, J=8.4 Hz, 1H), 7.24 (d, J=8.0 Hz, 1H), 7.12 (dd, J=2.0, 8.4 Hz, 1H), 7.02 (t, J=5.2 Hz, 1H), 6.08 (dd, J=2.0, 8.4 Hz, 1H), 5.88 (s, 2H), 4.87 (s, 2H), 3.04˜3.11 (m, 2H), 1.07 (t, J=7.2 Hz, 3H); MS (ESI) m/z=389 (M−1, negative); HPLC purity: 93.6% (MaxPlot 200-400 nm), 90.3% (220 nm).

reactant | 2,4-diamino-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)benzenesulfonamide | 3.13 mmol, 1.0 g | NC1=C(C=CC(=C1)N)S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1 | C13H14BN3O4S
reactant | isocyanatoethane | 7.0 mmol, 0.5 g | N(=C=O)CC | C3H5NO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Amino-2-(3-ethylureido)-N-(1-hydroxy-1,3-dihydrobenzo[c][1, 2]oxaborol-6-yl)benzenesulfonamide | 0.3 g | NC1=CC(=C(C=C1)S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1)NC(=O)NCC | C16H19BN4O5S
